US04554275
The same methods as in the preceding examples were conducted using 2,4-diamino-6-(1-methoxy-2-naphthyl)-s-triazine or 2,4-diamino-6-(1-benzyloxy-2-naphthyl)-s-triazine to afford 2-amino-4-nicotinamido-6-(1-hydroxy-2-naphthyl)-s-triazine, pale yellow needles, melting point 301° to 302° C.

reactant | 2,4-diamino-6-(1-methoxy-2-naphthyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=C(C2=CC=CC=C2C=C1)OC | C14H13N5O
reactant | 2,4-diamino-6-(1-benzyloxy-2-naphthyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=C(C2=CC=CC=C2C=C1)OCC1=CC=CC=C1 | C20H17N5O
product | 2-amino-4-nicotinamido-6-(1-hydroxy-2-naphthyl)-s-triazine | NC1=NC(=NC(=N1)NC(C1=CN=CC=C1)=O)C1=C(C2=CC=CC=C2C=C1)O | C19H14N6O2
